* SKY130 Bandpass Filter — Iteration 1
* Architecture: Pseudo-resistor HPF + 4th-order Sallen-Key LPF
* Uses two-stage Miller opamp for low output impedance
* Target: f_low < 1 Hz, f_high ~ 140 Hz, >20 dB at 250 Hz
*
* Changes from baseline:
* - Two-stage Miller-compensated opamp (replaces simple OTA)
* - 4th-order LPF (two cascaded Sallen-Key stages) for 20 dB at 250 Hz
* - Proper bias circuit

.lib "/home/ubuntu/workspace/sky130_models/sky130.lib.spice" tt

.param vdd_val = 1.8
.param vcm_val = 0.9

**********************************************
* SUPPLY AND BIAS
**********************************************
Vdd vdd 0 {vdd_val}
Vss vss 0 0
Vcm vcm 0 {vcm_val}

* Bias current: ~500 nA via resistor + diode-connected NFET
Rbias vdd nbias 2.2Meg
Xbias_n nbias nbias vss vss sky130_fd_pr__nfet_01v8 w=2u l=4u

* PMOS bias mirror
Xbias_p1 pbias pbias vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=4u
Xbias_p2 nbias pbias vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=4u
* pbias_p2 sinks same current as bias through nbias NFET

**********************************************
* TWO-STAGE MILLER OPAMP SUBCIRCUIT
**********************************************
* Ports: inp(+) inn(-) out vdd vss nbias
* Stage 1: PMOS mirror load + NMOS diff pair + NMOS tail
* Stage 2: PMOS common-source + NMOS current source
* Miller comp: Cc from stage1 output to stage2 output
.subckt miller_opamp inp inn out vdd vss nbias
* --- Stage 1: Differential pair with PMOS mirror ---
* PMOS current mirror load
XM3 s1out s1mir vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=2u
XM4 s1mir s1mir vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=2u
* NMOS differential pair
XM1 s1mir inp tail1 vss sky130_fd_pr__nfet_01v8 w=4u l=1u
XM2 s1out inn tail1 vss sky130_fd_pr__nfet_01v8 w=4u l=1u
* NMOS tail current source (~500 nA)
XM5 tail1 nbias vss vss sky130_fd_pr__nfet_01v8 w=2u l=4u

* --- Stage 2: Common-source output ---
* PMOS CS amplifier (driven by stage 1 output)
XM6 out s1out vdd vdd sky130_fd_pr__pfet_01v8 w=16u l=0.5u
* NMOS current source load (~1 µA)
XM7 out nbias vss vss sky130_fd_pr__nfet_01v8 w=4u l=4u

* --- Miller compensation ---
Cc s1out out 3p
.ends miller_opamp

**********************************************
* PSEUDO-RESISTOR SUBCIRCUIT
**********************************************
* Anti-parallel PMOS pair — minimum width, long channel for max resistance
* Vgs ≈ 0 near midpoint gives TΩ-range resistance
.subckt pseudo_res a b vdd
Xpr1 a b b vdd sky130_fd_pr__pfet_01v8 w=0.42u l=15u
Xpr2 b a a vdd sky130_fd_pr__pfet_01v8 w=0.42u l=15u
.ends pseudo_res

**********************************************
* STAGE 1: HIGH-PASS FILTER (1st order)
**********************************************
* Capacitively-coupled amplifier with pseudo-resistor DC feedback
* Gain = C_in / C_fb = 1 (unity)
* f_low = 1 / (2*pi * R_pseudo * C_fb)
* With C_fb = 50 pF and R_pseudo targeting ~3 GΩ → f_low ≈ 1 Hz

C_in input hpf_in 50p ic=0
Xpr_fb hpf_in hpf_out vdd pseudo_res
C_fb hpf_in hpf_out 50p ic=0
Xamp1 vcm hpf_in hpf_out vdd vss nbias miller_opamp

**********************************************
* STAGE 2: LOW-PASS FILTER (4th order Sallen-Key Butterworth)
**********************************************
* Two cascaded 2nd-order Sallen-Key sections
* 4th order Butterworth pole pairs:
*   Section 1: Q1 = 0.5412, f1 = 140 Hz
*   Section 2: Q2 = 1.3066, f2 = 140 Hz
*
* Sallen-Key LPF with equal R:
*   f0 = 1/(2*pi*R*sqrt(C1*C2))
*   Q = sqrt(C1/C2) / 2
*
* --- Section 1 (Q=0.5412): ---
* Q = sqrt(C1/C2)/2 = 0.5412 → C1/C2 = (2*0.5412)^2 = 1.1714
* With R = 200 kΩ:
*   f0 = 1/(2*pi*200k*sqrt(C1*C2)) = 140 Hz
*   sqrt(C1*C2) = 1/(2*pi*200k*140) = 5.684 nF
*   C1*C2 = 32.31 nF²
*   C1 = 1.1714 * C2 → 1.1714*C2² = 32.31 → C2 = 5.252 nF, C1 = 6.153 nF
R_s1a hpf_out s1_mid 200k
R_s1b s1_mid s1_in 200k
C_s1a s1_mid s1_out 6.2n
C_s1b s1_in vcm 5.2n
Xamp2 s1_in s1_out s1_out vdd vss nbias miller_opamp

* --- Section 2 (Q=1.3066): ---
* Q = sqrt(C1/C2)/2 = 1.3066 → C1/C2 = (2*1.3066)^2 = 6.829
* With R = 200 kΩ:
*   sqrt(C1*C2) = 5.684 nF (same f0)
*   C1 = 6.829*C2 → 6.829*C2² = 32.31 → C2 = 2.175 nF, C1 = 14.86 nF
R_s2a s1_out s2_mid 200k
R_s2b s2_mid s2_in 200k
C_s2a s2_mid s2_out 15n
C_s2b s2_in vcm 2.2n
Xamp3 s2_in s2_out s2_out vdd vss nbias miller_opamp

**********************************************
* OUTPUT
**********************************************
Rout s2_out output 100

**********************************************
* INPUT SOURCE (overridden by evaluate.py)
**********************************************
Vin input vcm dc 0 ac 1

.end
